US06191124B1
A suspension of 2-amino-4,5-dimethylthiazole hydrochloride (4.92 g, 30 mmol) (Formula A-1) in toluene (60 mL) was treated with triethylamine (4.5 mL, 35 mmol) and vigorously stirred for 30 minutes. The mixture was treated with dimethylformamide dimethyl acetal (7.3 mL, 60 mmol) and heated at reflux temperature for 2 hours. The solution was cooled, diluted with ethyl acetate, washed with saline, dried and evaporated. The residue was crystallized from hexane to provide pure N′-(4,5-Dimethyl-2-thiazolyl)-N,N-dimethyl-methanimidamide (Formula A-2) (4.31 g, 77%), m.p. 47-58°.

reactant | 2-amino-4,5-dimethylthiazole hydrochloride | 30 mmol, 4.92 g | Cl.NC=1SC(=C(N1)C)C
reactant | triethylamine | 35 mmol, 4.5 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide dimethyl acetal | 60 mmol, 7.3 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N′-(4,5-Dimethyl-2-thiazolyl)-N,N-dimethyl-methanimidamide | 4.31 g, 77% | CC=1N=C(SC1C)N=CN(C)C | C8H13N3S
